US08614206B2
A mixture of 4-nitropyrazole (1000 mg, 8.80 mmol), oxetan-3-ylmethyl methanesulfonate (1.90 g, 11.0 mmol), cesium carbonate (8.70 g, 27.0 mmol) and acetonitrile (13 mL) was heated at 100° C. for 3 h. The mixture was cooled to room temperature, saturated ammonium chloride was added. The mixture was extracted with methylene chloride 3×. Combined organics were dried (Na2SO4) and the solvent removed under reduced pressure. The crude product was purified by flash chromatography eluting with 0 to 70% ethyl acetate in heptane to give 4-nitro-1-(oxetan-3-ylmethyl)pyrazole (1.60 g, 99%).

reactant | 4-nitropyrazole | 8.80 mmol, 1000 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | oxetan-3-ylmethyl methanesulfonate | 11.0 mmol, 1.90 g | CS(=O)(=O)OCC1COC1 | C5H10O4S
reactant | cesium carbonate | 27.0 mmol, 8.70 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 13 mL | C(C)#N | C2H3N
product | 4-nitro-1-(oxetan-3-ylmethyl)pyrazole | 1.60 g, 99% | [N+](=O)([O-])C=1C=NN(C1)CC1COC1 | C7H9N3O3
